### PR TITLE
[Merged by Bors] - feat(Analysis): binomial series convergence

### PR DESCRIPTION
**Pull request by vasnesterov**
Prove 
* `one_add_cpow_hasFPowerSeriesOnBall_zero`: for complex `a` and `|x| < 1`, the binomial series converges to `(1 + x).cpow a`.
* `one_add_rpow_hasFPowerSeriesOnBall_zero`: the variant of the above for reals.

---

- [x] depends on: #27537
- [x] depends on: #26267
- [x] depends on: #26268
- [x] depends on: #31049

[Open in Gitpod](https://gitpod.io/from-referrer/)

Migrated from #23831.

### CODE REVIEW

File: Mathlib/Analysis/Analytic/Binomial.lean [hunk 1]
```diff
@@ -67,3 +71,132 @@ theorem binomialSeries_radius_eq_one {𝕂 : Type v} [RCLike 𝕂] {𝔸 : Type
...
+    · fun_prop
+    · apply Complex.mem_slitPlane_of_norm_lt_one
+      simpa [B] using hz
+    rw [deriv_const_add', deriv_id'', mul_one, show a - (n + 1) = a - n - 1 by ring, ← mul_assoc]
+    congr
+    simp [descPochhammer_succ_right, Polynomial.smeval_mul, Polynomial.smeval_natCast]
+
+theorem one_add_cpow_hasFPowerSeriesAt_zero {a : ℂ} :
+    HasFPowerSeriesAt (fun x ↦ (1 + x)^a) (binomialSeries ℂ a) 0 := by
+  apply HasFPowerSeriesOnBall.hasFPowerSeriesAt one_add_cpow_hasFPowerSeriesOnBall_zero
```
Comment (grunweg) [inline Mathlib/Analysis/Analytic/Binomial.lean]: Can you use dot notation here?

File: Mathlib/Analysis/Analytic/Binomial.lean [hunk 2]
```diff
@@ -67,3 +71,132 @@ theorem binomialSeries_radius_eq_one {𝕂 : Type v} [RCLike 𝕂] {𝔸 : Type
...
+  have h : HasFPowerSeriesOnBall (fun x ↦ (1 + x)^(a : ℂ)) (binomialSeries ℂ a) 0 1 := by
+    have : binomialSeries ℂ a = (binomialSeries ℂ (a : ℂ)).restrictScalars (𝕜 := ℝ) := by
+      ext n v
+      simp only [binomialSeries, FormalMultilinearSeries.ofScalars,
+        ContinuousMultilinearMap.smul_apply, ContinuousMultilinearMap.mkPiAlgebraFin_apply,
+        Complex.real_smul, FormalMultilinearSeries.restrictScalars,
+        ContinuousMultilinearMap.coe_restrictScalars, smul_eq_mul, mul_eq_mul_right_iff,
+        List.prod_eq_zero_iff, List.mem_ofFn]
+      left
+      -- ↑(Ring.choose a n) = Ring.choose (↑a) n
```
Comment (grunweg) [inline Mathlib/Analysis/Analytic/Binomial.lean]: I haven't looked at this in the infoview, so this may be a "stupid question": this is a separate lemma that you could extract?

File: Mathlib/Analysis/Analytic/Binomial.lean [hunk 3]
```diff
@@ -67,3 +71,132 @@ theorem binomialSeries_radius_eq_one {𝕂 : Type v} [RCLike 𝕂] {𝔸 : Type
...
+    simp [binomialSeries_radius_eq_top_of_nat]
+
+theorem one_add_cpow_hasFPowerSeriesOnBall_zero {a : ℂ} :
+    HasFPowerSeriesOnBall (fun x ↦ (1 + x)^a) (binomialSeries ℂ a) 0 1 := by
+  suffices (binomialSeries ℂ a = FormalMultilinearSeries.ofScalars ℂ
+      fun n ↦ iteratedDeriv n (fun (x : ℂ) ↦ (1 + x) ^ a) 0 / n !) by
+    convert AnalyticOn.hasFPowerSeriesOnSubball _ _ _
+    · norm_num
+    · apply AnalyticOn.cpow
+      · apply AnalyticOn.add
```
Comment (grunweg) [inline Mathlib/Analysis/Analytic/Binomial.lean]: Can `fun_prop` do this subgoal?

**Review by grunweg — COMMENTED** [review]
Here are three quick comments. Let's get this PR in sooner than the previous one. :-)

**Comment by erdOne** [comment]
Just adding that I would love to see this merged soon. I need this for Weierstrass p functions.

File: Mathlib/Analysis/Analytic/Binomial.lean (hunk 3 above)
Comment (vasnesterov) [reply Mathlib/Analysis/Analytic/Binomial.lean]: It can't because `AnalyticOn` is not marked with `fun_prop`. I'll mark `AnalyticOn`, `AnalyticOnNhd`, `AnalyticWithinAt` with `fun_prop` as in #21057 in a separate PR.

File: Mathlib/Analysis/Analytic/Binomial.lean (hunk 2 above)
Comment (vasnesterov) [reply Mathlib/Analysis/Analytic/Binomial.lean]: Yes, I'm just not sure how to state it in the right generality.

File: Mathlib/Analysis/Analytic/Binomial.lean (hunk 3 above)
Comment (grunweg) [reply Mathlib/Analysis/Analytic/Binomial.lean]: That PR would be very welcome; I'll be happy to review. Either doing that first, or leaving a TODO here work for me.

File: Mathlib/Analysis/Analytic/Binomial.lean [hunk 4]
```diff
@@ -67,3 +71,125 @@ theorem binomialSeries_radius_eq_one {𝕂 : Type v} [RCLike 𝕂] {𝔸 : Type
...
+    simpa using this
+  induction n with
+  | zero =>simp [Set.EqOn]
+  | succ n ih =>
+    have : iteratedDerivWithin (n + 1) (fun (x : ℂ) ↦ (1 + x) ^ a) B =
+        derivWithin (iteratedDerivWithin n (fun x ↦ (1 + x) ^ a) B) B := by
+      ext z
+      rw [iteratedDerivWithin_succ]
+    rw [this]
+    clear this
```
Comment (grunweg) [inline Mathlib/Analysis/Analytic/Binomial.lean]: Is there a particular reason you need this line? (no pun intended)

File: Mathlib/Analysis/Analytic/Binomial.lean [hunk 5]
```diff
@@ -67,3 +71,125 @@ theorem binomialSeries_radius_eq_one {𝕂 : Type v} [RCLike 𝕂] {𝔸 : Type
...
+      simp only [Ring.choose_eq_smul, smul_eq_mul, Complex.ofReal_mul, Complex.ofReal_inv,
+        Complex.ofReal_natCast, mul_eq_mul_left_iff, inv_eq_zero, Nat.cast_eq_zero]
+      left
+      rw [Polynomial.smeval_def, Polynomial.smeval_def]
+      simp only [Polynomial.sum, Complex.ofReal_sum]
+      congr
+      ext n
+      simp [Polynomial.smul_pow]
+    rw [this]
+    exact HasFPowerSeriesOnBall.restrictScalars one_add_cpow_hasFPowerSeriesOnBall_zero
```
Comment (grunweg) [inline Mathlib/Analysis/Analytic/Binomial.lean]: You can use dot notation here, I believe.

File: Mathlib/Analysis/Analytic/Binomial.lean [hunk 6]
```diff
@@ -67,3 +71,125 @@ theorem binomialSeries_radius_eq_one {𝕂 : Type v} [RCLike 𝕂] {𝔸 : Type
...
+    rw [FormalMultilinearSeries.compContinuousLinearMap_apply]
+    simp only [binomialSeries, FormalMultilinearSeries.ofScalars, Pi.comp_one,
+      Complex.ofRealCLM_apply, Complex.ofReal_one, Function.const_one,
+      ContinuousMultilinearMap.smul_apply, ContinuousMultilinearMap.mkPiAlgebraFin_apply,
+      Fin.prod_ofFn, Pi.one_apply, Finset.prod_const_one, Complex.real_smul, mul_one]
+  simp [Complex.ofReal_re, binomialSeries]
+
+theorem one_add_rpow_hasFPowerSeriesAt_zero {a : ℝ} :
+    HasFPowerSeriesAt (fun x ↦ (1 + x)^a) (binomialSeries ℝ a) 0 :=
+  HasFPowerSeriesOnBall.hasFPowerSeriesAt one_add_rpow_hasFPowerSeriesOnBall_zero
```
Comment (grunweg) [inline Mathlib/Analysis/Analytic/Binomial.lean]: and here

File: Mathlib/Analysis/Analytic/Binomial.lean (hunk 2 above)
Comment (erdOne) [reply Mathlib/Analysis/Analytic/Binomial.lean]: Probably something like
```
attribute [local instance] BinomialRing.toIsAddTorsionFree in
lemma Ring.map_multichoose {R S F : Type*} [Ring R] [Ring S] [BinomialRing R] [BinomialRing S]
    [FunLike F R S] [RingHomClass F R S] (f : F) (a : R) (n : ℕ) :
    f (Ring.multichoose a n) = Ring.multichoose (f a) n := by
  change RingHomClass.toRingHom f (Ring.multichoose a n) = _
  apply nsmul_right_injective n.factorial_ne_zero
  simp only [← map_nsmul, Ring.factorial_nsmul_multichoose_eq_ascPochhammer, 
    ← Polynomial.eval₂_smulOneHom_eq_smeval, Polynomial.hom_eval₂]
  congr
  exact Subsingleton.elim _ _

lemma Ring.map_choose {R S F : Type*} [Ring R] [Ring S] [BinomialRing R] [BinomialRing S]
    [FunLike F R S] [RingHomClass F R S] (f : F) (a : R) (n : ℕ) :
    f (Ring.choose a n) = Ring.choose (f a) n := by
  simpa using Ring.map_multichoose f (a - n + 1) n

@[norm_cast]
lemma Complex.ofReal_choose (a : ℝ) (n : ℕ) :
    ↑(Ring.choose a n) = Ring.choose (a : ℂ) n :=
  Ring.map_choose (algebraMap ℝ ℂ) _ _
```

File: Mathlib/Analysis/Analytic/Binomial.lean [hunk 7]
```diff
@@ -67,3 +71,120 @@ theorem binomialSeries_radius_eq_one {𝕂 : Type v} [RCLike 𝕂] {𝔸 : Type
...
+    [NormedAlgebra 𝕂 𝔸] {a : 𝕂} :
+    1 ≤ (binomialSeries 𝔸 a).radius := by
+  by_cases ha : ∀ (k : ℕ), a ≠ k
+  · rw [binomialSeries_radius_eq_one ha]
+  · push_neg at ha
+    rcases ha with ⟨k, rfl⟩
+    simp [binomialSeries_radius_eq_top_of_nat]
+
+theorem one_add_cpow_hasFPowerSeriesOnBall_zero {a : ℂ} :
+    HasFPowerSeriesOnBall (fun x ↦ (1 + x)^a) (binomialSeries ℂ a) 0 1 := by
```
Comment (erdOne) [inline Mathlib/Analysis/Analytic/Binomial.lean]:
```suggestion
    HasFPowerSeriesOnBall (fun x ↦ (1 + x) ^ a) (binomialSeries ℂ a) 0 1 := by
```

File: Mathlib/Analysis/Analytic/Binomial.lean [hunk 8]
```diff
@@ -67,3 +71,120 @@ theorem binomialSeries_radius_eq_one {𝕂 : Type v} [RCLike 𝕂] {𝔸 : Type
...
+  congr
+  let B := Metric.ball (0 : ℂ) 1
+  suffices Set.EqOn (iteratedDerivWithin n (fun x ↦ (1 + x) ^ a) B)
+      (fun x ↦ (descPochhammer ℤ n).smeval a * (1 + x)^(a - n)) B by
+    specialize this (show 0 ∈ _ by simp [B])
+    rw [iteratedDerivWithin_of_isOpen Metric.isOpen_ball (by simp)] at this
+    symm
+    simpa using this
+  induction n with
+  | zero =>simp [Set.EqOn]
```
Comment (erdOne) [inline Mathlib/Analysis/Analytic/Binomial.lean]:
```suggestion
  | zero => simp [Set.EqOn]
```

File: Mathlib/Analysis/Analytic/Binomial.lean [hunk 9]
```diff
@@ -67,3 +71,120 @@ theorem binomialSeries_radius_eq_one {𝕂 : Type v} [RCLike 𝕂] {𝔸 : Type
...
+    · apply Complex.mem_slitPlane_of_norm_lt_one
+      simpa [B] using hz
+
+theorem one_add_cpow_hasFPowerSeriesAt_zero {a : ℂ} :
+    HasFPowerSeriesAt (fun x ↦ (1 + x)^a) (binomialSeries ℂ a) 0 :=
+  one_add_cpow_hasFPowerSeriesOnBall_zero.hasFPowerSeriesAt
+
+theorem one_add_rpow_hasFPowerSeriesOnBall_zero {a : ℝ} :
+    HasFPowerSeriesOnBall (fun x ↦ (1 + x)^a) (binomialSeries ℝ a) 0 1 := by
+  have h : HasFPowerSeriesOnBall (fun x ↦ (1 + x)^(a : ℂ)) (binomialSeries ℂ a) 0 1 := by
```
Comment (erdOne) [inline Mathlib/Analysis/Analytic/Binomial.lean]:
```suggestion
    HasFPowerSeriesOnBall (fun x ↦ (1 + x) ^ a) (binomialSeries ℝ a) 0 1 := by
  have h : HasFPowerSeriesOnBall (fun x ↦ (1 + x) ^ (a : ℂ)) (binomialSeries ℂ a) 0 1 := by
```

File: Mathlib/Analysis/Analytic/Binomial.lean [hunk 10]
```diff
@@ -67,3 +71,120 @@ theorem binomialSeries_radius_eq_one {𝕂 : Type v} [RCLike 𝕂] {𝔸 : Type
     FormalMultilinearSeries.radius_compNeg]
   conv at ha => ext; rw [ne_comm]
   exact ordinaryHypergeometricSeries_radius_eq_one _ _ _ _ (by norm_cast; grind)
+
+theorem binomialSeries_radius_ge_one {𝕂 : Type v} [RCLike 𝕂] {𝔸 : Type u} [NormedDivisionRing 𝔸]
```
Comment (erdOne) [inline Mathlib/Analysis/Analytic/Binomial.lean]:
```suggestion
theorem binomialSeries_radius_ge_one {𝕂 : Type*} [RCLike 𝕂] {𝔸 : Type*} [NormedDivisionRing 𝔸]
```
We prefer `Type*` if there are no universe shenanigans going on.

File: Mathlib/Analysis/Analytic/Binomial.lean [hunk 11]
```diff
@@ -67,3 +71,120 @@ theorem binomialSeries_radius_eq_one {𝕂 : Type v} [RCLike 𝕂] {𝔸 : Type
...
+    unfold FormalMultilinearSeries.coeff
+    rw [FormalMultilinearSeries.compContinuousLinearMap_apply]
+    simp only [binomialSeries, FormalMultilinearSeries.ofScalars, Pi.comp_one,
+      Complex.ofRealCLM_apply, Complex.ofReal_one, Function.const_one,
+      ContinuousMultilinearMap.smul_apply, ContinuousMultilinearMap.mkPiAlgebraFin_apply,
+      Fin.prod_ofFn, Pi.one_apply, Finset.prod_const_one, Complex.real_smul, mul_one]
+  simp [Complex.ofReal_re, binomialSeries]
+
+theorem one_add_rpow_hasFPowerSeriesAt_zero {a : ℝ} :
+    HasFPowerSeriesAt (fun x ↦ (1 + x)^a) (binomialSeries ℝ a) 0 :=
```
Comment (erdOne) [inline Mathlib/Analysis/Analytic/Binomial.lean]:
```suggestion
    HasFPowerSeriesAt (fun x ↦ (1 + x) ^ a) (binomialSeries ℝ a) 0 :=
```

File: Mathlib/Analysis/Analytic/Binomial.lean (hunk 2 above)
Comment (erdOne) [reply Mathlib/Analysis/Analytic/Binomial.lean]: I think we would at least want `Complex.ofReal_choose` somewhere?

File: Mathlib/Analysis/Analytic/Binomial.lean [hunk 12]
```diff
@@ -67,3 +76,113 @@ theorem binomialSeries_radius_eq_one {𝕂 : Type v} [RCLike 𝕂] {𝔸 : Type
...
+    · apply Complex.mem_slitPlane_of_norm_lt_one
+      simpa [B] using hz
+
+theorem one_add_cpow_hasFPowerSeriesAt_zero {a : ℂ} :
+    HasFPowerSeriesAt (fun x ↦ (1 + x) ^ a) (binomialSeries ℂ a) 0 :=
+  one_add_cpow_hasFPowerSeriesOnBall_zero.hasFPowerSeriesAt
+
+theorem one_add_rpow_hasFPowerSeriesOnBall_zero {a : ℝ} :
+    HasFPowerSeriesOnBall (fun x ↦ (1 + x) ^ a) (binomialSeries ℝ a) 0 1 := by
+  have h : HasFPowerSeriesOnBall (fun x ↦ (1 + x) ^ (a : ℂ)) (binomialSeries ℂ a) 0 1 := by
```
Comment (erdOne) [inline Mathlib/Analysis/Analytic/Binomial.lean]: This is
```lean
lemma binomialSeries_apply {𝕂 : Type u} [Field 𝕂] [CharZero 𝕂] (𝔸 : Type v)
    [Ring 𝔸] [Algebra 𝕂 𝔸] [TopologicalSpace 𝔸] [IsTopologicalRing 𝔸] (a : 𝕂) {n} (v : Fin n → 𝔸) :
    binomialSeries 𝔸 a n v = Ring.choose a n • (List.ofFn v).prod := by
  simp [binomialSeries, FormalMultilinearSeries.ofScalars]

attribute [local simp] binomialSeries_apply in
attribute [local simp← ] Complex.ofReal_choose in
attribute [-simp] FormalMultilinearSeries.apply_eq_prod_smul_coeff in
theorem one_add_rpow_hasFPowerSeriesOnBall_zero {a : ℝ} :
    HasFPowerSeriesOnBall (fun x ↦ (1 + x) ^ a) (binomialSeries ℝ a) 0 1 := by
  have : binomialSeries ℂ a = (binomialSeries ℂ (a : ℂ)).restrictScalars (𝕜 := ℝ) := by aesop
  have : HasFPowerSeriesOnBall (fun x ↦ (1 + x) ^ (a : ℂ)) (binomialSeries ℂ a) (.ofRealCLM 0) 1 :=
    Complex.ofRealCLM.map_zero ▸ this ▸ one_add_cpow_hasFPowerSeriesOnBall_zero.restrictScalars
  convert (Complex.reCLM.comp_hasFPowerSeriesOnBall this.compContinuousLinearMap).congr ?_
  · ext; simp [Function.comp_def]
  · simp
  · intros x hx; simp_all; norm_cast
```

File: Mathlib/Analysis/Analytic/Binomial.lean [hunk 13]
```diff
@@ -67,3 +82,81 @@ theorem binomialSeries_radius_eq_one {𝕂 : Type v} [RCLike 𝕂] {𝔸 : Type
...
+      apply Complex.mem_slitPlane_of_norm_lt_one
+      rw [← ENNReal.ofReal_one, Metric.emetric_ball] at hz
+      simpa using hz
+    · rw [← this]
+      exact binomialSeries_radius_ge_one
+  simp only [binomialSeries, FormalMultilinearSeries.ofScalars_series_eq_iff]
+  ext n
+  rw [Ring.choose_eq_smul, smul_eq_mul]
+  field_simp
+  congr
```
Comment (erdOne) [inline Mathlib/Analysis/Analytic/Binomial.lean]:
```suggestion
  rw [eq_div_iff_mul_eq (by simp [Nat.factorial_ne_zero]), ← nsmul_eq_mul',
    ← Ring.descPochhammer_eq_factorial_smul_choose]
```
I think non-terminal `field_simp`s are not that stable and is discouraged.

**Comment by grunweg** [comment]
> I think non-terminal field_simps are not that stable and is discouraged.

I don't mind the new proof, but let me say that I disagree with this. `field_simp` used to be implemented as a call to simp (with a particular simp set and discharger) --- that implementation was indeed brittle. But since a few months ago, `field_simp` works differently and is much more robust. There is a small chance that changes can break `field_simp` proofs (just like they could for `ring_nf`), but I'd consider these small.

FWIW, `field_simp` is considered a normalising tactic by the flexible linter, i.e. this code would be fine.

**Comment by erdOne** [comment]
Good to know! Then @b-mehta lied to me.

File: Mathlib/RingTheory/Binomial.lean [hunk 14]
```diff
@@ -164,6 +164,17 @@ theorem multichoose_two (k : ℕ) : multichoose (2 : R) k = k + 1 := by
...
       Nat.cast_succ, add_comm]
 
+attribute [local instance] BinomialRing.toIsAddTorsionFree in
+lemma map_multichoose {R S F : Type*} [Ring R] [Ring S] [BinomialRing R] [BinomialRing S]
+    [FunLike F R S] [RingHomClass F R S] (f : F) (a : R) (n : ℕ) :
+    f (Ring.multichoose a n) = Ring.multichoose (f a) n := by
+  change RingHomClass.toRingHom f (Ring.multichoose a n) = _
+  apply nsmul_right_injective n.factorial_ne_zero
+  simp only [← map_nsmul, Ring.factorial_nsmul_multichoose_eq_ascPochhammer,
+    ← Polynomial.eval₂_smulOneHom_eq_smeval, Polynomial.hom_eval₂]
```
Comment (j-loreaux) [inline Mathlib/RingTheory/Binomial.lean]: We have a lemma for this `change`:
```suggestion
  apply nsmul_right_injective n.factorial_ne_zero
  simp only [← map_nsmul, Ring.factorial_nsmul_multichoose_eq_ascPochhammer,
    ← Polynomial.eval₂_smulOneHom_eq_smeval, Polynomial.hom_eval₂, ← RingHom.coe_coe f]
```

**Review by j-loreaux — COMMENTED** [review]
Thanks for this!

bors d+
